US06635637B2
3. [3-Chloro-5-(tert-butyldimethylsilyloxy)phenyl]-N-cyclopentyl-N-prop-2-enylcarboxamide
To a solution of 3-chloro-5-(tert-butyldimethylsilyloxy)benzoic acid (17.5 g, 60 mmol), as prepared in the preceding step, and CH2Cl2 (250 mL) were added triethylamine (33.8 mL, 0.24 mol) and bis(2-oxo-3-oxazolidinyl)phosphinic chloride (17.0 g, 66 mmol). The resulting mixture was stirred for 5 min, then N-allylcyclopentylamine (9.8 mL, 66 mmol) was added. After 1 h, the solution was filtered. The filtrate was washed with 10% aqueous HCl (100 mL), saturated aqueous NaHCO3 (100 mL), and brine (100 mL). The organic layer was dried over anhydrous MgSO4, concentrated in vacuo, and flash chromatographed to provide the title compound as a colorless oil (23.5 g, 97%). 1H NMR (CDCl3) δ 6.95 (s, 1H), 6.84 (s, 1H), 6.71 (s, 1H), 5.93 (br s, 1H), 5.16 (d, 2H), 3.95 (br s, 3H), 1.4-1.9 (m, 8H), 0.97 (s, 9H), 0.20 (s, 6H). Mass spectrum (CI) calcd. for C21H32NO2SiCl: 394 (M+H). Found: 394.

reactant | 3-chloro-5-(tert-butyldimethylsilyloxy)benzoic acid | 60 mmol, 17.5 g | ClC=1C=C(C(=O)O)C=C(C1)O[Si](C)(C)C(C)(C)C | C13H19ClO3Si
reactant | triethylamine | 0.24 mol, 33.8 mL | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 66 mmol, 17.0 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | N-allylcyclopentylamine | 66 mmol, 9.8 mL | C(C=C)NC1CCCC1 | C8H15N
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | [3-Chloro-5-(tert-butyldimethylsilyloxy)phenyl]-N-cyclopentyl-N-prop-2-enylcarboxamide | 23.5 g, 97% | ClC=1C=C(C=C(C1)O[Si](C)(C)C(C)(C)C)C(=O)N(CC=C)C1CCCC1 | C21H32ClNO2Si
